US07205306B2
5-Chloro-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone and 5-methoxy-7-methylindoline hydrochloride as the starting materials. mp 111–113° C.; 1H NMR (300 MHz, CDCl3): δ 6.80 (s, 1 H), 6.68 (d, J=2.2 Hz, 1 H), 6.59 (d, J=2.2 Hz, 1 H), 4.40 (t, J=7.7 Hz, 2 H), 4.04 (t, J=7.1 Hz, 2 H), 3.79 (s, 3 H), 3.04 (t, J=7.7 Hz, 2 H), 2.89 (t, J=7.2 Hz, 2 H), 2.18 (s, 3 H), 2.06 (s, 3 H); HRMS (CI) calcd for C17H20N3O2SCl (M+): 365.0965; found m/z 365.0967.

reactant | 3,5-dichloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)CCSC)=O | C7H8Cl2N2OS
reactant | 5-methoxy-7-methylindoline hydrochloride | Cl.COC=1C=C2CCNC2=C(C1)C
product | 5-Chloro-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)CCSC)=O)N1CCC2=CC(=CC(=C12)C)OC | C17H20ClN3O2S
